US06613772B1
2-(4-Chlorophenyl)-4-(4-benzylpiperazino)-6,7,8-trimethoxyquinazoline
A mixture of 2.0 g of 2-(4-chlorophenyl)-4-chloro-6,7,8-trimethoxyquinazoline and 5.0 g of N-benzylpiperazine was heated at 150° C. for 1 h. After cooling, 20 ml of ice water were added and the mixture was extracted with ethyl acetate. The organic phase was dried over sodium sulfate and concentrated. The oily crude product thus obtained was recrystallized from isopropanol. Yield: 1 g. M.p.: 150° C.

reactant | 2-(4-chlorophenyl)-4-chloro-6,7,8-trimethoxyquinazoline | 2.0 g | ClC1=CC=C(C=C1)C1=NC2=C(C(=C(C=C2C(=N1)Cl)OC)OC)OC | C17H14Cl2N2O3
reactant | N-benzylpiperazine | 5.0 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 2-(4-Chlorophenyl)-4-(4-benzylpiperazino)-6,7,8-trimethoxyquinazoline | ClC1=CC=C(C=C1)C1=NC2=C(C(=C(C=C2C(=N1)N1CCN(CC1)CC1=CC=CC=C1)OC)OC)OC | C28H29ClN4O3
